US04603139
2-(2,4-Dimethoxyphenyl)-1H-imidazo[4,5-c]pyridine
A mixture of 2,4 dimethoxybenzoic acid (2.5 g) and 3,4-diaminopyridine (1.5 g) was ground to a fine powder and added portionwise to phosphorus oxychloride (50 ml) with stirring. The mixture was stirred and heated under reflux for 2.5 hours before excess phosphorus oxychloride was removed in vacuo. The residue was cooled, water (20 ml) added and the pH adjusted to 7 with ammonium hydroxide to yield a pale yellow solid which was collected, washed with water and dried. The solid was recrystallised twice from aqueous ethanol to yield a cream coloured crystalline solid m.p. 195°-198°.

reactant | 2,4 dimethoxybenzoic acid | 2.5 g | COC1=C(C(=O)O)C=CC(=C1)OC | C9H10O4
reactant | 3,4-diaminopyridine | 1.5 g | NC=1C=NC=CC1N | C5H7N3
solvent | phosphorus oxychloride | 50 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-(2,4-Dimethoxyphenyl)-1H-imidazo[4,5-c]pyridine | COC1=C(C=CC(=C1)OC)C=1NC2=C(C=NC=C2)N1 | C14H13N3O2
